** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/reg_x3_custom.sch
**.subckt reg_x3_custom VDD VSS VINPI VOUT
*.iopin VDD
*.iopin VSS
*.iopin VINPI
*.opin VOUT
x7 VDD VSS net1 VINPI reg_inv
x8 VDD VSS net2 net1 reg_inv
x9 VDD VSS VOUT net2 reg_inv
**.ends

* expanding   symbol:  reg_inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/reg_inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/reg_inv.sch
.subckt reg_inv VDD VSS CLKOUT CLKIN
*.iopin VDD
*.iopin VSS
*.ipin CLKIN
*.opin CLKOUT
x1 VDD CLKIN CLKOUT net1 VSS reg
x4 VDD net1 CLKOUT VSS inv
.ends


* expanding   symbol:  reg.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/reg.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/reg.sch
.subckt reg VDD CLK Q D VSS
*.ipin D
*.opin Q
*.iopin VDD
*.iopin VSS
*.ipin CLK
XM2 X CLK net1 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 X CLK_B net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM3 net1 D VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM4 net2 D VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM5 Q CLK_B net3 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM6 Q CLK net4 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM7 net3 X VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM8 net4 X VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
x1 VDD CLK_B CLK VSS inv
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends

.end
